US08349851B2
Preparation of (4-(1H-pyrazol-3-ylamino)-8-methoxyquinazolin-2-yl)(4-fluorophenyl)methanone
To ethyl 4-(1H-pyrazol-3-ylamino)-8-methoxyquinazoline-2-carboxylate (200 mg, 0.64 mmol) in dry THF (8 mL) cooled to −40° C. was added dropwise over 2 min 1N 4-fluorophenylmagnesium bromide in THF (2.17 mL, 2.17 mmol). After 1.5 h the reaction mixture was quenched by addition of saturated aq ammonium chloride. The solution was concentrated and H2O was added. The precipitate was washed with water and diethyl ether to give(4-(1H-pyrazol-3-ylamino)-8-methoxyquinazolin-2-yl)(4-fluorophenyl)methanone as a yellow solid (74 mg, 87% purity by LC/MS) 1H NMR (300 MHz, DMSO-d6) δ ppm 3.94 (s, 3 H) 6.75 (s, 1 H) 7.35-7.41 (m, 3 H) 7.58-7.65 (m, 2 H) 8.07-8.12 (m, 2 H) 8.2 (d, J=8.48 Hz, 1 H) 10.64 (br. s., 1 H) 12.51 (br. s., 1 H) LC-MS (ESI) m/z 364 (M+H)+.

reactant | ethyl 4-(1H-pyrazol-3-ylamino)-8-methoxyquinazoline-2-carboxylate | 0.64 mmol, 200 mg | N1N=C(C=C1)NC1=NC(=NC2=C(C=CC=C12)OC)C(=O)OCC | C15H15N5O3
reactant | 4-fluorophenylmagnesium bromide | 1N | FC1=CC=C(C=C1)[Mg]Br
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 2.17 mmol, 2.17 mL | C1CCOC1 | C4H8O
product | (4-(1H-pyrazol-3-ylamino)-8-methoxyquinazolin-2-yl)(4-fluorophenyl)methanone | N1N=C(C=C1)NC1=NC(=NC2=C(C=CC=C12)OC)C(=O)C1=CC=C(C=C1)F | C19H14FN5O2
